US04247551
6-(2,6-Dimethyl-morpholino)-N-(2,5-dimethyl-1H-pyrrol-1-yl)-3-pyridazineamine
The compound is prepared according to the procedure of example 2 by contacting 3.8 g (12.8 m moles) of 6-(2,6-dimethyl-morpholino)-3-hydrazino-pyridazine dihydrochloride (prepared according to the procedure described in U.K. Pat. No. 1.157.642; m.p. 217°-220° C.), 2.2 g (25.6 m moles) of sodium acetate and 1.61 g (14.1 m moles) of 2,5-hexanedione in 20 ml of acetic acid. The yield is 1.8 g (47%) of the product of the title which melts at 147°-148° C. when crystallized from ethyl ether.

reactant | 6-(2,6-dimethyl-morpholino)-3-hydrazino-pyridazine dihydrochloride | 3.8 g | Cl.Cl.CC1OC(CN(C1)C1=CC=C(N=N1)NN)C
reactant | sodium acetate | 2.2 g | C(C)(=O)[O-].[Na+]
reactant | 2,5-hexanedione | 1.61 g | CC(CCC(C)=O)=O | C6H10O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-(2,6-Dimethyl-morpholino)-N-(2,5-dimethyl-1H-pyrrol-1-yl)-3-pyridazineamine | CC1OC(CN(C1)C1=CC=C(N=N1)NN1C(=CC=C1C)C)C | C16H23N5O
